US07300946B2
Step D Synthesis of {1-[(2-methyl(1,2,3,4-tetraazol-5-yl))methyl](4-piperidyl)}[4-(trifluoromethoxy)phenyl]methanol as an intermediate
This compound was prepared in a manner analogous to that of Step E of Example 3, using 7.0 grams (0.026 mole) of 4-piperidyl[4-(trifluoromethoxy)phenyl]methanol, hydrochloride, 6.8 grams (0.026 mole) of 5-[4-(bromomethyl)phenyl]-2-methyl-1,2,3,4-tetraazole (prepared in a manner analogous to that of Steps A–C of Example 4), and 9.9 grams (0.077 mole) of N,N-diisopropylethylamine in about 40 mL of DMSO. The NMR spectrum was consistent with the proposed structure.

reactant | 4-piperidyl[4-(trifluoromethoxy)phenyl]methanol, hydrochloride | 0.026 mole, 7.0 grams | Cl.N1CCC(CC1)C(O)C1=CC=C(C=C1)OC(F)(F)F
reactant | 5-[4-(bromomethyl)phenyl]-2-methyl-1,2,3,4-tetraazole | 0.026 mole, 6.8 grams | BrCC1=CC=C(C=C1)C=1N=NN(N1)C | C9H9BrN4
reactant | N,N-diisopropylethylamine | 0.077 mole, 9.9 grams | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | about 40 mL | CS(=O)C | C2H6OS
product | {1-[(2-methyl(1,2,3,4-tetraazol-5-yl))methyl](4-piperidyl)}[4-(trifluoromethoxy)phenyl]methanol | CN1N=C(N=N1)CN1CCC(CC1)C(O)C1=CC=C(C=C1)OC(F)(F)F | C16H20F3N5O2
